US06495546B1
3-[2-(2-tert-butoxycarbonylethyl)-3,6-dimethoxyphenyl]-propionic acid tert-butyl ester (6.33 g) was added dropwise to a refluxed solution of sodium hydride (578 mg) in dry toluene (60 ml) and dry tert-butyl alcohol (0.5 ml), and stirred for 3 hours. After cooling, to the reaction mixture glacial acetic acid was added dropwise followed by addition of ice water and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. To the residue were added methanol (50 ml) and 6N hydrochloric acid (15 ml), and this mixture was refluxed for 3 hours, poured into ice and extracted with ethyl acetate. The residue was chromatographed (hexane-ethyl acetate) over silica gel to afford 1,4-dimethoxy-5,6,8,9-tetrahydrobenzocyclohepten-7-one (2.99 g).

reactant | 3-[2-(2-tert-butoxycarbonylethyl)-3,6-dimethoxyphenyl]-propionic acid tert-butyl ester | 6.33 g | C(C)(C)(C)OC(CCC1=C(C(=CC=C1OC)OC)CCC(=O)OC(C)(C)C)=O | C22H34O6
reactant | sodium hydride | 578 mg | [H-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | tert-butyl alcohol | 0.5 ml | C(C)(C)(C)O | C4H10O
product | 1,4-dimethoxy-5,6,8,9-tetrahydrobenzocyclohepten-7-one | 2.99 g | COC1=CC=C(C2=C1CCC(CC2)=O)OC | C13H16O3
